US04369309
3,4-Dihydro-2-isoprenyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole:
To a solution of one gram of 3,4-dihydro-2-hydroxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole in dry tetrahydrofuran (20 ml) was treated with 0.5 g of 50% sodium hydride containing mineral oil at 0° C. under stirring. The mixture was stirred for 1 hr, then one gram of isoprenylbromide was added, and the stirring was continued for three hours at room temperature. The reaction mixture was condensed under reduced pressure. The residue was added with water and then extracted with chloroform, and dried over anhydrous magnesium sulfate. Chloroform was evaporated under reduced pressure. The residue was chromatographed on silica gel and eluted with chloroform to obtain 0.42 g (yield: 30%) of the intended product, m.p. 56°-60° C.;

reactant | 3,4-dihydro-2-hydroxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | one gram | OCC1CCN2C(=NC3=C2C=CC=C3)S1 | C11H12N2OS
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | isoprenylbromide | one gram | C(=CC(C)=C)Br | C5H7Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2-isoprenyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 0.42 g, yield: 30% | C(=CC(C)=C)OCC1CCN2C(=NC3=C2C=CC=C3)S1 | C16H18N2OS
